US07459554B2
cis-tert-Butyl ({3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutyl}oxy)acetate:
cis-tert-Butyl ({3-[8-chloro-1-(3-benzyloxyphenyl)imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}oxy) acetate: cis-3-[1-(3-Benzyloxyphenyl)-8-chloroimidazo[1,5-a]pyrazin-3-yl]cyclobutanol (1.58 mmol, 640 mg) was dissolved in THF (8 mL) and cooled to −78° C. when it was charged with sodium bis(trimethylsilyl)amide (2.37 mmol, 2.37 mL), followed by adding tert-butyl bromoacetate (3.15 mmol, 0.47 mL) portion by portion. The reaction mixture was stirred under −20° C. for 30 min and 0° C. for 1 h before it was allowed to warm to rt slowly and stirred for 16 h. The reaction mixture was concentrated under reduced pressure, dissolved in DCM, washed with water (3×15 mL) and dried over Na2SO4. The crude oil was purified by silica gel column chromatography (Jones Flashmaster, 50 g/150 mL cartridge, eluting with EtOAc:Hexane (2:3)), yielding the title compound as a colorless oil; 1H NMR (400 MHz, CDCl3) δ 7.53 (d, J=4.8 Hz, 1H), 7.46 (d, 1H, J=8.0 Hz, 1H), 7.40-7.27 (m, 7H), 7.04 (dd, J=2.0, 8.0 Hz, 1H), 5.14 (s, 2H), 4.25 (p, J=8.0 Hz, 1H), 3.36-3.27 (m, 1H), 2.90-2.84 (m, 2H), 2.70-2.62 (m, 2H), 1.48 (s, 9H).

reactant | cis-3-[1-(3-Benzyloxyphenyl)-8-chloroimidazo[1,5-a]pyrazin-3-yl]cyclobutanol | 1.58 mmol, 640 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)[C@H]2C[C@H](C2)O | C23H20ClN3O2
reactant | sodium bis(trimethylsilyl)amide | 2.37 mmol, 2.37 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl bromoacetate | 3.15 mmol, 0.47 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | cis-tert-Butyl ({3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutyl}oxy)acetate | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)OCC(=O)OC(C)(C)C | C29H32N4O4
